US04353827
37.0 g (187.3 mmol) of 6-chloroisatoic acid anhydride and 24.6 g (187.3 mmol) of L-4-hydroxyproline in 180 ml of dimethyl sulphoxide is heated to 100° for 2 hours, evaporated to dryness in a high vacuum and the residue obtained is heated to 130° for 2 hours. By recrystallization from ethanol there is obtained (2R,11aS)-6-chloro-1,2,3,11a-tetrahydro-2-hydroxy-5H-pyrrolo[2,1-c][1,4]benzodiazepine-5,11(10H)-dione of melting point 284°-287°.

reactant | 6-chloroisatoic acid anhydride | 187.3 mmol, 37.0 g | ClC=1C=CC=C2C1C(=O)OC(N2)=O | C8H4ClNO3
reactant | L-4-hydroxyproline | 187.3 mmol, 24.6 g | C1[C@H](CN[C@@H]1C(=O)O)O | C5H9NO3
solvent | dimethyl sulphoxide | 180 ml | CS(=O)C | C2H6OS
product | (2R,11aS)-6-chloro-1,2,3,11a-tetrahydro-2-hydroxy-5H-pyrrolo[2,1-c][1,4]benzodiazepine-5,11(10H)-dione | ClC1=CC=CC2=C1C(N1[C@H](C(N2)=O)C[C@H](C1)O)=O | C12H11ClN2O3
